US08703782B2
Preparation of 7-{1-[1-Hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester
To a solution of 7-{1-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester (3.00 g, 5.32 mmol) in MeOH (25 mL) was added an aqueous 37% solution of formaldehyde (9.5 g, 8.72 mL, 117 mmol) under argon at r.t. The reaction mixture was heated to 85° C. and stirred for 4 h. The reaction mixture was cooled to r.t. under continuous stirring and filtered. The solids were washed with ice-water and dried at high vacuum (<1 mm Hg) to afford the title compound as dark red crystals. 1H-NMR (400 MHz, DMSO-d6): 11.96 (s, 1H), 8.05 (s, 1H), 7.69-7.64 (m, 2H), 7.47 (t, 1H), 7.12-7.06 (m, 2H), 6.76 (d, 1H), 6.42 (t, 1H), 6.01 (d, 1H), 5.00 (d, 2H), 3.49-3.10 (m, 6H), 2.39 (s, 3H), 1.41 (s, 9H), 0.89-0.57 (m, 4H). LCMS: [M]+=593.7, Rt(1)=2.34 min.

reactant | 7-{1-[4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester | 5.32 mmol, 3.00 g | C(C)(C)(C)OC(=O)N1C2(CC2)CN(CC1)C=1N=C(C2=CC=CC=C2C1)C=1C(NC(C1C1=CNC2=C(C=CC=C12)C)=O)=O | C33H33N5O4
reactant | formaldehyde | 117 mmol, 8.72 mL, 9.5 g | C=O | CH2O
solvent | MeOH | 25 mL | CO | CH4O
product | 7-{1-[1-Hydroxymethyl-4-(7-methyl-1H-indol-3-yl)-2,5-dioxo-2,5-dihydro-1H-pyrrol-3-yl]-isoquinolin-3-yl}-4,7-diaza-spiro[2.5]octane-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C2(CC2)CN(CC1)C=1N=C(C2=CC=CC=C2C1)C=1C(N(C(C1C1=CNC2=C(C=CC=C12)C)=O)CO)=O | C34H35N5O5
